US07816389B2
The required 3-Mercapto-benzonitrile is prepared from 3-Cyano-benzenesulfonyl chloride following the procedure for the preparation of 3-Mercaptobenzoic acid described in Journal of Heterocyclic Chemistry (1982), 19(4), 961-5.

reactant | 3-Cyano-benzenesulfonyl chloride | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 3-Mercaptobenzoic acid | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
product | 3-Mercapto-benzonitrile | SC=1C=C(C#N)C=CC1 | C7H5NS
